US04288350
2-(Beta-cyanoethyl)-2-ethylhexanal was prepared from 2-ethylhexanal and acrylonitrile analogous to the procedure described in Example 1 for 2-(beta-cyanoethyl)2-methylpentanal. Yield 81% of the product boiling at 112°-114° C. at 0.5 mm.; nD20 1.4538. This product was converted to γ-ethyl-γ-n-butyl-δ-valerolactone as described in Example 1 for γ-methyl-γ-n-propyl-δ-valerolactone. Yield 78%, product boils at 104°-105° C. at 0.6 mm.; nD20 1.4652 and exhibits a hairy, lactonic, fatty, costus-like odor.

reactant | 2-ethylhexanal | C(C)C(C=O)CCCC | C8H16O
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 2-(beta-cyanoethyl)2-methylpentanal | C(#N)CCC(C=O)(CCC)C | C9H15NO
product | 2-(Beta-cyanoethyl)-2-ethylhexanal | Yield 78% | C(#N)CCC(C=O)(CCCC)CC | C11H19NO
